US09145414B2
Copper oxide (I) (60 mg), NMP (2 mL), and concentrated aqueous ammonia (2 mL) were added to 5-bromo-2-ethyl-7-methyl-2H-indazole obtained in the above-described Step 1 (446 mg), and the reaction solution was stirred in a microwave reactor at 100° C. for 10 hours. The reaction solution was cooled to room temperature, and diluted with ethyl acetate. Thereafter, the reaction solution was washed successively with water four times and then with a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 2-ethyl-7-methyl-2H-indazol-5-amine.

reactant | NMP | 2 mL | CN1CCCC1=O | C5H9NO
reactant | ammonia | 2 mL | N | H3N
reactant | 5-bromo-2-ethyl-7-methyl-2H-indazole | BrC1=CC2=CN(N=C2C(=C1)C)CC | C10H11BrN2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 60 mg | [Cu](I)I
product | 2-ethyl-7-methyl-2H-indazol-5-amine | C(C)N1N=C2C(=CC(=CC2=C1)N)C | C10H13N3
